US03946019
A solution of 2-aminooxypropionic acid hydrochloride (15.0 g.) in water (37.5 cc.) is added to a stirred boiling solution of 7H-indolizino[5,6,7-ij]isoquinolin- 7-one (15.0 g.) in ethanol (375 cc.) and pyridine (8.14 g.). Boiling is maintained for 2 hours 30 minutes. After cooling, the orange crystals are filtered off, washed with 90% ethanol, then with absolute ethanol and finally with diethyl ether. After drying, 7-(1-carboxyethoxyimino)-7H-indolizino[5,6,7-ij]isoquinoline (16.0 g.), melting at 225° C. with decomposition, is obtained.

reactant | 2-aminooxypropionic acid hydrochloride | 15.0 g | Cl.NOC(C(=O)O)C
reactant | 7H-indolizino[5,6,7-ij]isoquinolin- 7-one | 15.0 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
solvent | water | 37.5 cc | O | H2O
solvent | ethanol | 375 cc | C(C)O | C2H6O
solvent | pyridine | 8.14 g | N1=CC=CC=C1 | C5H5N
product | 7-(1-carboxyethoxyimino)-7H-indolizino[5,6,7-ij]isoquinoline | 16.0 g | C(=O)(O)C(C)ON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C17H13N3O3
